US04295874
A 32.3 g (0.32 mol) sample of triethylamine was added dropwise to a cooled (0° C.) solution of 50 g (0.29 mol) N-isopropyl chloromethanesulfonamide and 70 g (0.29 mol) 1,1,2,2-tetrachloroethylsulfenyl chloride. After the addition was completed, the reaction was stirred at ambient temperature for 30 minutes and then under reflux for 3 hours. The reaction mixture was then cooled, washed with water, dried over magnesium sulfate and evaporated under reduced pressure to give the N-isopropyl-N-(trichlorovinylthio)-chloromethanesulfonamide product, which after crystallization from pet. ether melted at 71°-73° C. The product is reported as Compound 1.

reactant | N-isopropyl chloromethanesulfonamide | 0.29 mol, 50 g | C(C)(C)NS(=O)(=O)CCl | C4H10ClNO2S
reactant | 1,1,2,2-tetrachloroethylsulfenyl chloride | 0.29 mol, 70 g | ClC(C(Cl)Cl)(SCl)Cl | C2HCl5S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-isopropyl-N-(trichlorovinylthio)-chloromethanesulfonamide | C(C)(C)N(S(=O)(=O)CCl)SC(=C(Cl)Cl)Cl | C6H9Cl4NO2S2
